US07449475B2
N-Cyclopropyl-2-[(2S)-oxiran-2-ylmethoxy]benzamide
A mixture of N-cyclopropyl-2-hydroxybenzamide (270 mg, 1.52 mmol), (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (378 mg, 1.68 mmol) and cesium carbonate (645 mg, 1.98 mmol) in DMF (4 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (40% heptane in ethyl acetate) to give the subtitled compound (354 mg).

reactant | N-cyclopropyl-2-hydroxybenzamide | 1.52 mmol, 270 mg | C1(CC1)NC(C1=C(C=CC=C1)O)=O | C10H11NO2
reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 1.68 mmol, 378 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | cesium carbonate | 1.98 mmol, 645 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-2-[(2S)-oxiran-2-ylmethoxy]benzamide | 354 mg | C1(CC1)NC(C1=C(C=CC=C1)OC[C@H]1OC1)=O | C13H15NO3
